US04242510
EXAMPLE 2: 7-[2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (syn isomer)
2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetic acid (syn isomer, 0.508 g.) was allowed to react with 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid (0.82 g.) in a similar manner to that of Example 1 to give the captioned compound (0.85 g.), pale yellow powder, mp. 175° to 180° (dec.).

reactant | 2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetic acid | 0.508 g | O1CCSC=C1C(C(=O)O)=NOC | C7H9NO4S
reactant | 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 0.82 g | NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
product | 7-[2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | O1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)=NOC | C16H18N4O8S2
